Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[O:6][C:4](=[C:5]([H:14])[H:15])[C:7]1([H:16])[H:17])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@:4]2([C:5]([H:14])([H:15])[O:6]2)[C:7]1([H:16])[H:17])([H:8])([H:9])[H:10],116.9287682989259
[C:1]([C:2](=[O:3])[N:4](/[C:5](=[N:6]/[H:12])[H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C+:2][N:4]([C:5]([N:6]([O-:3])[H:12])[H:11])[H:10])([H:7])([H:8])[H:9],124.15200559758699
[N:1]([C:2]([C:3]#[N:4])([C:5]#[N:6])[H:9])([H:7])[H:8]>>[N:1]([N:4]=[C:3]=[C:2]([C:5]#[N:6])[H:9])([H:7])[H:8],74.6362135810467
[C:1](=[C:2]=[C:3]([C:4]([C:5]([H:11])([H:12])[H:13])([C:6]([H:14])([H:15])[H:16])[O:7][H:17])[H:10])([H:8])[H:9]>>[C:1]([C:2]#[C:3][C:4]([C:5]([H:11])([H:12])[H:13])([C:6]([H:14])([H:15])[H:16])[O:7][H:17])([H:8])([H:9])[H:10],73.98857086954635
[C:1]([C@@:2]1([H:10])[C@:3]([O:4][H:12])([H:11])[C@:5]1([O:6][H:14])[H:13])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]([C:3]([O:4][H:12])([H:11])[H:14])([C:5](=[O:6])[H:13])[H:10])([H:7])([H:8])[H:9],51.34080637432611
[C:1]([C@@:2]([O:3][H:12])([C:4](=[O:5])[C:6]#[C:7][H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3][H:12])=[C:4]([O-:5])[C:6](=[C+:7][H:13])[H:11])([H:8])([H:9])[H:10],50.7080428934865
[C:1]([C@@:2]([O:3][H:11])([C:4]([C:6](=[C:5])[H:14])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]([O:3][H:11])([C:4]([C:5]#[C:6][H:14])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9],11.268116744096993
[C:1]([C@@:2]([O:3][H:11])([C:4](=[O:5])[N:6]([H:12])[H:13])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]1([O:3][H:11])[C@:4]([N:6]([H:12])[H:13])([H:10])[O:5]1)([H:7])([H:8])[H:9],75.8144084233062
[C:1]([C:2](=[C:4]=[C:5]=[C:6]=[O:7])[H:11])([H:8])([H:9])[H:10].[C:3]([H:12])([H:13])([H:14])[H:15]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]#[C:5][C:6](=[O:7])[H:15])[H:11])([H:8])([H:9])[H:10],65.6112690561585
[C:1]([C:2](=[O:3])[N:4]([C:5](=[O:6])[H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1](=[C:2]=[O:3])([H:8])[H:9].[N:4]([C:5](=[O:6])[H:11])([H:7])[H:10],70.06778720273479
[o:1]1[c:2]([H:6])[c:3]([H:7])[c:4]([H:8])[n:5]1>>[O:1]([C:2](=[C:3]([H:7])[H:8])[H:6])[N+:5]#[C-:4],89.9804667608534
[C:1]([C:2]1([O:3][H:11])[C:4]([H:12])([H:13])[C:5]([H:14])=[C:6]([H:15])[C:7]1([H:16])[H:17])([H:8])([H:9])[H:10]>>[C:1]([C:7](/[C:6](=[C:5](\[C:4]([C:2][O:3][H:11])([H:12])[H:13])[H:14])[H:15])([H:16])[H:17])([H:8])([H:9])[H:10],116.482013746512
[N:1]([c:2]1[n:3][n:4][c:5]([N:6]([H:10])[H:11])[o:7]1)([H:8])[H:9]>>[N:1]([N:3]=[C:2]=[O:7])([H:8])[H:9].[N:4]#[C:5][N:6]([H:10])[H:11],55.40869149176821
[O:1]([C@@:2]1([H:9])[C:3]([H:10])([H:11])[C@:4]1([O:5][C:6](=[O:7])[H:13])[H:12])[H:8]>>[O:1]([C:2](/[C:3](=[C:4](/[O:5][C:6](=[O:7])[H:13])[H:12])[H:11])([H:9])[H:10])[H:8],66.645494376682
[O:1]([C:2]([C:3]#[C:4][C:5]([O:6][H:12])([H:10])[H:11])([H:8])[H:9])[H:7]>>[C:2](=[C:3]=[C:4]=[C:5]([O:6][H:12])[H:10])([H:8])[H:9].[O:1]([H:7])[H:11],59.673193809202004
[O:1]([O:7][C:6]1([H:13])[C:2]([H:9])([H:10])[C:3]#[C:4][C:5]1([H:11])[H:12])[H:8]>>[O:1]([C:2]([C:3]#[C:4][C:5]([C:6](=[O:7])[H:13])([H:11])[H:12])([H:9])[H:10])[H:8],8.666950067402993
[N:1]([C@@:2]([C:3]#[C:4][H:10])([C:5]#[N:6])[H:9])([H:7])[H:8]>>[N:1]([C@@:2]([C:4](=[C:3])[H:10])([C:5]#[N:6])[H:9])([H:7])[H:8],52.297955384965
[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([N:4]([C:5]([H:15])([H:16])[H:17])[C:6](=[O:7])[H:18])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([N:4]([C:5]([H:15])([H:16])[H:17])[H:11])[C:6](=[O:7])[H:18])([H:8])([H:9])[H:10],95.54996018193
[C:1]([C:2](=[C:3]([H:12])[H:13])[O:7][C@@:5]([O:4][H:11])([C:6]([H:15])([H:16])[H:17])[H:14])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[O:4][C@:5]([C:6]([H:15])([H:16])[H:17])([H:14])[O:7]1)([H:8])([H:9])[H:10],58.15679697015163
[C:1]([C:2]([O:3][C:4]([C:5]([H:13])([H:14])[H:15])([C:6]([H:16])([H:17])[H:18])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([H:7])([H:8])[H:9].[C:2]([O:3][C:4]([C:5]([H:13])([H:14])[H:15])[C:6]([H:16])([H:17])[H:18])([H:10])([H:11])[H:12],110.41260197351801
[O:1]=[C:3]([C@@:4]1([H:9])[O:5][C@:6]1([C:2][H:7])[H:10])[H:8]>>[O:1]1[C@@:2]2([H:7])[C@:3]1([H:8])[C@@:4]1([H:9])[O:5][C@@:6]21[H:10],11.704512015135005
[O:1]=[C:2]1[C:3]([H:7])([H:8])[N:4]2[C:5]([H:9])([H:10])[C@@:6]12[H:11]>>[O:1]=[C:6]([C:2]12[C:3]([H:7])([H:8])[N:4]1[C:5]2([H:9])[H:10])[H:11],60.09499756099781
[N:1](=[C:2]1\[C@@:5]2([O:3][C:4]2([H:9])[H:10])[C:6]([H:11])([H:12])[N:7]1[H:13])\[H:8]>>[N:1](=[C:2]1\[O:3][C:4]([H:9])([H:10])[C@@:5]12[C:6]([H:11])([H:12])[N:7]2[H:13])\[H:8],65.26501067094812
[C:1]([C:2]([O:3][C:4]([C:5]#[C:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([O:3][C:2]([H:10])[H:11])([H:7])([H:8])[H:9].[C:4]([C:5]#[C:6][H:14])([H:12])[H:13],111.283907603939
[N:1]([C:2]([C@@:3]([O:4][H:12])([C:5]#[N:6])[H:11])([H:9])[H:10])([H:7])[H:8]>>[H:11][H:12].[N:1]([C:2]([C:3](=[O:4])[C:5]#[N:6])([H:9])[H:10])([H:7])[H:8],82.900299429431
